US08957064B2
4-(3-bromo-2-methyl-6-phenyl-imidazo[1,2-a]pyrimidin-7-yl)-benzaldehyde
0.2 g (0.64 mmol) 4-(2-Methyl-6-phenyl-imidazo[1,2-a]pyrimidin-7-yl)benzaldehyde, described in intermediate example 15.1, are dissolved in 2.8 mL chloroform and treated with 170 mg (0.96 mmol) N-bromosuccinimide. The mixture is heated for 2.5 hours at reflux. The solvent is removed and the residue purified by chromatography (silicagel, dichloromethane/methanol). 198.4 mg (75.3%) of the desired compound are obtained.

reactant | 4-(2-Methyl-6-phenyl-imidazo[1,2-a]pyrimidin-7-yl)benzaldehyde | 0.64 mmol, 0.2 g | CC=1N=C2N(C=C(C(=N2)C2=CC=C(C=O)C=C2)C2=CC=CC=C2)C1 | C20H15N3O
reactant | N-bromosuccinimide | 0.96 mmol, 170 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | chloroform | 2.8 mL | C(Cl)(Cl)Cl | CHCl3
product | 4-(3-bromo-2-methyl-6-phenyl-imidazo[1,2-a]pyrimidin-7-yl)-benzaldehyde | 198.4 mg, 75.3% | BrC1=C(N=C2N1C=C(C(=N2)C2=CC=C(C=O)C=C2)C2=CC=CC=C2)C | C20H14BrN3O
